US07534797B2
7-Chloro-2-phenylquinazoline
7-Chloro-2-phenylquinazolin-4(3H)-one (40 mg, 0.16 mmol) was suspended in POCl3 (2 mL) and heated to 50° C. with stirring for 24 h. Later the reaction was heated to 90° C. for 16 h. With minimum exposure to moisture, the crude mixture was evaporated to dryness under reduced pressure and treated with 2 M NH3/i-PrOH (8 mL) with cooling on ice-H2O bath under Ar. The mixture was partitioned between DCM and H2O and the organic layer was washed (H2O, satd NaHCO3 and brine), dried (Na2SO4) to afford crude material which was used directly in the following de-chlorination step. The crude material (31 mg, 0.113 mmol) and tosylhydrazide (63 mg, 0.34 mmol) were dissolved in anh CHCl3 (10 mL) and heated at 60° C. (overnight, bath temperature) and, then refluxed for 4 h. The solvent was removed under reduced pressure and the solid residue was heated under Ar in anh. PhMe (10 mL) and anh ClCH2CH2Cl (5 mL) at 80° C. (bath temperature) for 63 h: The reaction was cooled to rt and a pale yellow precipitate was collected by filtration and washed with PhMe and DCM (2×). The collected solid in aq Na2CO3 (10%, 10 mL) was placed in a preheated bath at 90° C. After stirring at the temperature for 45 min, the reaction was cooled and left standing at rt overnight. The crude reaction mixture was extracted with DCM (3×), washed (H2O, brine), dried (Na2SO4), concentrated under reduced pressure, and purified by flash chromatography (silica gel, 100:0→10:1 EtOAc:hexanes) to afford the title compound as a light orange solid; 1H NMR (400 MHz, CDCl3) δ 9.43 (s, 1H), 8.63-8.56 (m, 2H), 8.09 (d, J=0.8 Hz, 1H), 7.86 (d, J=8.8 Hz, 1H), 7.58-7.50 (m, 4H).

reactant | 7-Chloro-2-phenylquinazolin-4(3H)-one | 0.16 mmol, 40 mg | ClC1=CC=C2C(NC(=NC2=C1)C1=CC=CC=C1)=O | C14H9ClN2O
solvent | POCl3 | 2 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | CHCl3 | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 7-Chloro-2-phenylquinazoline | ClC1=CC=C2C=NC(=NC2=C1)C1=CC=CC=C1 | C14H9ClN2
